US07973037B2
Step 4: Preparation of N1-(cyanomethyl)-N2-[(1S)-2,2,3,3,3-pentafluoro-1-(4-pyridin-4-ylphenyl)propyl]-L-leucinamide
To a solution of N2-[(1S)-1-(4-bromophenyl)-2,2,3,3,3-pentafluoropropyl]-N2-(cyanomethyl)-L-leucinamide (82 mg, 0.18 mmol), 4-pyridylboronic acid (30 mg, 0.24 mmol) and PdCl2(dppf) (14 mg, 0.02 mmol) in 2.5 mL DMF was added 2M Na2CO3 (0.25 mL). The mixture was heated to 95° C. for 2.5 h, then cooled and partitioned between aq. Na2CO3 and ether. The aqueous phase was washed with brine and dried over MgSO4. Purification by silica gel chromatography (65% to 95% ethyl acetate/hexanes gradient) provided the title compound.

reactant | N2-[(1S)-1-(4-bromophenyl)-2,2,3,3,3-pentafluoropropyl]-N2-(cyanomethyl)-L-leucinamide | 0.18 mmol, 82 mg | BrC1=CC=C(C=C1)[C@@H](C(C(F)(F)F)(F)F)N([C@@H](CC(C)C)C(=O)N)CC#N | C17H19BrF5N3O
reactant | 4-pyridylboronic acid | 0.24 mmol, 30 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 2M, 0.25 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.02 mmol, 14 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N1-(cyanomethyl)-N2-[(1S)-2,2,3,3,3-pentafluoro-1-(4-pyridin-4-ylphenyl)propyl]-L-leucinamide | C(#N)CNC([C@@H](N[C@H](C(C(F)(F)F)(F)F)C1=CC=C(C=C1)C1=CC=NC=C1)CC(C)C)=O | C22H23F5N4O
